US08541411B2
Preparation of 1-[(3-chloro-2-methylphenyl)methyl]-6-(4-morpholinyl)-4-(1H-1,2,4-triazol-3-yl)-2-(trifluoromethyl)-1H-benzimidazole
Oxalyl chloride (0.347 mL, 3.97 mmol) was added to a suspension of 1-[(3-chloro-2-methylphenyl)methyl]-6-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylic acid, prepared as described in Example 53 (450 mg, 0.992 mmol) in Dichloromethane (DCM) (8 mL). The reaction mixture was stirred at rt for 10 minutes and then the solvent was evaporated. The residue (crude acid chloride), was suspended in Tetrahydrofuran (THF) (8 mL). NH3 gas was bubbled in (the mixture changed color yellow to white) and the mixture was stirred at rt for 15 minutes and then partitioned between brine (15 mL) and EtOAc (20 mL). The aqueous phase was extracted with EtOAc (2×20 mL) and CH2Cl2 (10 mL). The organic phases were combined, dried over Na2SO4 and concentrated. The crude product was suspended in N,N-dimethylformamide dimethyl acetal (10 mL, 74.7 mmol) and stirred at 105° C. for 2 h. The excess solvent was evaporated and the residue was suspended in Acetic Acid (10 mL). After the addition of hydrazine monohydrate (0.194 mL, 3.97 mmol), the mixture was stirred at 100° C. for 1.5 h. The solvent was evaporated and the residue was dissolved in warm DMSO (8 mL) and purified by reverse phase-HPLC (20-90% AcCN in water plus 0.1% TFA) to give the desired product (96 mg, 0.197 mmol, 19.90% yield) as a white powder. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 13.08 (br. s., 1H), 8.11 (s, 1H), 7.98 (d, J=2.27 Hz, 1H), 7.36 (d, J=8.08 Hz, 1H), 7.01 (t, J=7.96 Hz, 1H), 6.51 (d, J=2.02 Hz, 1H), 6.32 (d, J=7.83 Hz, 1H), 5.51 (s, 2H), 3.73-3.97 (m, 4H), 3.12-3.30 (m, 4H), 2.50 (s, 3H). MS (ES+) m/e 476.9 [M+H]+.

reactant | Oxalyl chloride | 3.97 mmol, 0.347 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-[(3-chloro-2-methylphenyl)methyl]-6-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylic acid | ClC=1C(=C(C=CC1)CN1C(=NC2=C1C=C(C=C2C(=O)O)N2CCOCC2)C(F)(F)F)C | C21H19ClF3N3O3
reactant | N,N-dimethylformamide dimethyl acetal | 74.7 mmol, 10 mL | COC(N(C)C)OC | C5H13NO2
reactant | hydrazine monohydrate | 3.97 mmol, 0.194 mL | O.NN
solvent | Dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 1-[(3-chloro-2-methylphenyl)methyl]-6-(4-morpholinyl)-4-(1H-1,2,4-triazol-3-yl)-2-(trifluoromethyl)-1H-benzimidazole | 0.197 mmol, 96 mg, 19.90% yield | ClC=1C(=C(C=CC1)CN1C(=NC2=C1C=C(C=C2C2=NNC=N2)N2CCOCC2)C(F)(F)F)C | C22H20ClF3N6O
